### PR TITLE
Add lemmas about condFDiv and update blueprint

### PR DESCRIPTION
**Pull request by LorenzoLuccioli**
Add the lemmas condFDiv_zero_measure and condFDiv_const. Add lemma condFDiv_const to the blueprint.

### CODE REVIEW

File: TestingLowerBounds/FDiv/CondFDiv.lean [hunk 1]
```diff
@@ -274,9 +281,33 @@ lemma condFDiv_nonneg [IsMarkovKernel κ] [IsMarkovKernel η]
...
+lemma condFDiv_const {ξ : Measure β} [IsFiniteMeasure ξ] (h_ne_bot : fDiv f μ ν ≠ ⊥) :
+    condFDiv f (kernel.const β μ) (kernel.const β ν) ξ = (fDiv f μ ν) * ξ Set.univ := by
+  by_cases hξ_zero : ξ = 0
+  · simp only [hξ_zero, condFDiv_zero_measure, Measure.zero_toOuterMeasure, OuterMeasure.coe_zero,
+      Pi.zero_apply, EReal.coe_ennreal_zero, mul_zero]
+  by_cases h_zero : fDiv f μ ν = 0
+  · simp only [h_zero, zero_mul]
+    rw [condFDiv_eq'] <;>
+    simp only [kernel.const_apply, h_zero, EReal.toReal_zero, integral_zero, EReal.coe_zero, ne_eq,
+      EReal.zero_ne_top, not_false_eq_true, eventually_true, integrable_zero]
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/CondFDiv.lean]: Indent after `<;>`
```suggestion
    rw [condFDiv_eq'] <;>
      simp only [kernel.const_apply, h_zero, EReal.toReal_zero, integral_zero, EReal.coe_zero, ne_eq,
        EReal.zero_ne_top, not_false_eq_true, eventually_true, integrable_zero]
```

File: TestingLowerBounds/FDiv/CondFDiv.lean [hunk 2]
```diff
@@ -274,9 +281,33 @@ lemma condFDiv_nonneg [IsMarkovKernel κ] [IsMarkovKernel η]
...
+  by_cases h_top : fDiv f μ ν = ⊤
+  · rw [h_top, EReal.top_mul_of_pos _]
+    swap
+    · simp only [EReal.coe_ennreal_pos, Measure.measure_univ_pos, ne_eq, hξ_zero,
+        not_false_eq_true]
+    simp only [condFDiv_of_not_ae_finite, kernel.const_apply, h_top, ne_eq, not_true_eq_false,
+      eventually_false_iff_eq_bot, ae_eq_bot, hξ_zero, not_false_eq_true]
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/CondFDiv.lean]: Don't use `swap` since both proofs are short, and use two focusing dots?

File: TestingLowerBounds/FDiv/CondFDiv.lean [hunk 3]
```diff
@@ -274,9 +281,33 @@ lemma condFDiv_nonneg [IsMarkovKernel κ] [IsMarkovKernel η]
   simp only [EReal.coe_nonneg]
   apply integral_nonneg _
   intro x
-  have h := @fDiv_nonneg _ _ (κ x) (η x) f _ _ hf_cvx hf_cont hf_one
+  have h := fDiv_nonneg (μ := κ x) (ν := η x) hf_cvx hf_cont hf_one
   simp [EReal.toReal_nonneg, h]
 
+lemma condFDiv_const {ξ : Measure β} [IsFiniteMeasure ξ] (h_ne_bot : fDiv f μ ν ≠ ⊥) :
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/CondFDiv.lean]: Call this one `condFDiv_const'` and add another one called `condFDiv_const` with an added hypothesis `IsFiniteMeasure μ`, but without the hypothesis `h_ne_bot` (which then follows from `fDiv_ne_bot`).

File: blueprint/src/sections/f_divergence.tex [hunk 4]
```diff
@@ -366,6 +366,23 @@ \section{Conditional f-divergence}
 Apply Lemma~\ref{lem:fDiv_nonneg}.
 \end{proof}
 
+\begin{lemma}
+  \label{lem:condFDiv_const}
+  \lean{ProbabilityTheory.condFDiv_const}
+  \leanok
+  \uses{def:condFDiv, def:fDiv}
+  Let $\mu, \nu$ be measures on $\mathcal X$ such that $D_f(\mu, \nu) \neq -\infty$, let $\xi$ be a finite measure on $\mathcal Y$.
```
Comment (RemyDegenne) [inline blueprint/src/sections/f_divergence.tex]:
```suggestion
  Let $\mu, \nu$ be measures on $\mathcal X$, where $\mu$ is finite, and le $\xi$ be a finite measure on $\mathcal Y$.
```

File: TestingLowerBounds/FDiv/CondFDiv.lean [hunk 5]
```diff
@@ -274,9 +281,36 @@ lemma condFDiv_nonneg [IsMarkovKernel κ] [IsMarkovKernel η]
...
+      Pi.zero_apply, EReal.coe_ennreal_zero, mul_zero]
+  by_cases h_zero : fDiv f μ ν = 0
+  · simp only [h_zero, zero_mul]
+    rw [condFDiv_eq'] <;>
+      simp only [kernel.const_apply, h_zero, EReal.toReal_zero, integral_zero, EReal.coe_zero, ne_eq,
+        EReal.zero_ne_top, not_false_eq_true, eventually_true, integrable_zero]
+  by_cases h_top : fDiv f μ ν = ⊤
+  · rw [h_top, EReal.top_mul_of_pos _]
+    · simp only [condFDiv_of_not_ae_finite, kernel.const_apply, h_top, ne_eq, not_true_eq_false,
+      eventually_false_iff_eq_bot, ae_eq_bot, hξ_zero, not_false_eq_true]
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/CondFDiv.lean]:
```suggestion
        eventually_false_iff_eq_bot, ae_eq_bot, hξ_zero, not_false_eq_true]
```

File: TestingLowerBounds/FDiv/CondFDiv.lean [hunk 6]
```diff
@@ -274,9 +281,36 @@ lemma condFDiv_nonneg [IsMarkovKernel κ] [IsMarkovKernel η]
...
+    · simp only [EReal.coe_ennreal_pos, Measure.measure_univ_pos, ne_eq, hξ_zero,
+        not_false_eq_true]
+  rw [condFDiv_eq' (by simp [h_top]) _]
+  swap; simp [integrable_const_iff, lt_top_iff_ne_top]
+  simp only [kernel.const_apply, integral_const, smul_eq_mul, mul_comm, EReal.coe_mul]
+  congr
+  · exact EReal.coe_toReal h_top h_ne_bot
+  · exact EReal.coe_ennreal_toReal (measure_ne_top _ _)
+
+lemma condFDiv_const {ξ : Measure β} [IsFiniteMeasure ξ] [IsFiniteMeasure μ] :
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/CondFDiv.lean:311]:
```suggestion
@[simp]
lemma condFDiv_const {ξ : Measure β} [IsFiniteMeasure ξ] [IsFiniteMeasure μ] :
```

File: TestingLowerBounds/FDiv/CondFDiv.lean [hunk 7]
```diff
@@ -274,9 +281,36 @@ lemma condFDiv_nonneg [IsMarkovKernel κ] [IsMarkovKernel η]
...
+    condFDiv f (kernel.const β μ) (kernel.const β ν) ξ = (fDiv f μ ν) * ξ Set.univ := by
+  exact condFDiv_const' fDiv_ne_bot
```
Comment (RemyDegenne) [inline TestingLowerBounds/FDiv/CondFDiv.lean]:
```suggestion
    condFDiv f (kernel.const β μ) (kernel.const β ν) ξ = (fDiv f μ ν) * ξ Set.univ :=
  condFDiv_const' fDiv_ne_bot
```

**Review by RemyDegenne — APPROVED** [review]
